US06313122B1
B. N1-(4-Methoxybenzoyl)-N2-(4-propylbenzoyl)-4-hydroxy-1,2-benzenediamine
To a solution of N1-(4-methoxybenzoyl)-N2-(4-propylbenzoyl)-4-(tert-butyldimethylsilyloxy)-1,2-benzenediamine (360 mg, 0.69 mmol) in tetrahydrofuran (20 mL) cooled to 0° C. was added a 1 M solution of tetra-n-butylammonium fluoride in tetrahydrofuran (1.4 mL, 1.4 mmol). After 15 min, the reaction mixture was diluted with water and partitioned with ethyl acetate. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was chromatographed (silica gel, 10% ethyl acetate/90% methylene chloride to 40% ethyl acetate/60% methylene chloride) to give 239 mg (86%) of the title compound as a white solid.

reactant | N1-(4-methoxybenzoyl)-N2-(4-propylbenzoyl)-4-(tert-butyldimethylsilyloxy)-1,2-benzenediamine | 0.69 mmol, 360 mg | COC1=CC=C(C(=O)NC=2C(=CC(=CC2)O[Si](C)(C)C(C)(C)C)NC(C2=CC=C(C=C2)CCC)=O)C=C1 | C30H38N2O4Si
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 1.4 mmol, 1.4 mL | O1CCCC1 | C4H8O
product | N1-(4-Methoxybenzoyl)-N2-(4-propylbenzoyl)-4-hydroxy-1,2-benzenediamine | 239 mg, 86% | COC1=CC=C(C(=O)NC=2C(=CC(=CC2)O)NC(C2=CC=C(C=C2)CCC)=O)C=C1 | C24H24N2O4
